US07196104B2
Preparation EJ: 6-Bromo-3′,6′-dihydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester
To a solution of 6-bromo-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl (4.3 g, 17.8 mmol) and CH2Cl2 (100 mL) was added saturated NaHCO3 (100 mL) and (Boc)2O (3.8 g, 17.8 mmol). Stirred at RT for 18 h. Washed organic layer with brine then dried (MgSO4) and concentrated in vacuo to give the desired compound as a light-yellow oil. MS m/z: 338.9 (M−H). Calc'd for C15H19BrN2O2 339.23.

reactant | 6-bromo-1′,2′,3′,6′-tetrahydro-[2,4′]bipyridinyl | 17.8 mmol, 4.3 g | BrC1=CC=CC(=N1)C=1CCNCC1 | C10H11BrN2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | (Boc)2O | 17.8 mmol, 3.8 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-3′,6′-dihydro-2′H-[2,4′]bipyridinyl-1′-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=NC(=CC=C1)Br | C15H19BrN2O2
